US07846960B2
3-[({6-[4-Isopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-pyridin-3-yl}-methyl-amino)-methyl]-benzoic Acid
To an ambient temperature solution of 3-[({6-[4-Isopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-pyridin-3-yl}-methyl-amino)-methyl]-benzoic acid methyl ester (106 mg, 0.186 mmol) in dioxane (2 mL) is added a solution of lithium hydroxide (279 μL, 0.558 mmol, 2.0N in water). The reaction mixture is heated to 50° C. The reaction is concentrated under reduced pressure and the residue is partitioned between Et2O and water. The aqueous layer pH is adjusted to approximately 7 and is extracted with a second portion of Et2O. The combined organic layers are washed with water, dried (MgSO4), filtered, and concentrated to yield the title compound (99 mg, 96%). ES/MS m/e 555.3 (M+1)

reactant | 3-[({6-[4-Isopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-pyridin-3-yl}-methyl-amino)-methyl]-benzoic acid methyl ester | 0.186 mmol, 106 mg | COC(C1=CC(=CC=C1)CN(C)C=1C(=NC(=CC1)OCC=1N(N=CC1C(C)C)C1=C(C=CC=C1)OC(F)(F)F)C)=O | C30H31F3N4O4
reactant | lithium hydroxide | 0.558 mmol, 2.0N, 279 μL | [OH-].[Li+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 3-[({6-[4-Isopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-pyridin-3-yl}-methyl-amino)-methyl]-benzoic Acid | 99 mg, 96% | C(C)(C)C1=C(N(N=C1)C1=C(C=CC=C1)OC(F)(F)F)COC1=CC=C(C(=N1)C)N(C)CC=1C=C(C(=O)O)C=CC1 | C29H29F3N4O4
